Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain, nausea/vomiting

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ year old female with history pertinent for 
constipation predominant-IBS/Functional abdominal pain disorder 
who presents with abdominal pain, nausea and vomiting.
   Per discussion with the patient, she has been diagnosed with 
irritable bowel syndrome for approximately ___ years. She reports 
that despite debilitating symptoms she has not followed up with 
a single provider ___. The patient reports having ___ PCPs 
over this time and reports she is not regularly followed by a 
gastroenterologist. The patient has been seen by Dr. ___ at 
least once at ___, no notes available for review. The patient 
reports that for her symptoms she smokes marijuana ___ joints 
daily and takes hot baths. She is currently a student at 
___ but reports she may miss up to 50 days a year because 
of her symptoms.
   With regards to her symptoms the patient reports epigastric 
pain, ___ in intensity. The pain is always present but with 
intermittent flares. The patient reports associated nausea and 
vomiting with limited PO tolerance during her flares. 5 days ago 
the patient's pain increased this was notably in the setting of 
having run out of Amitriptyline 7 days ago. (The patient 
receives this from a provider in ___. She reports 10 
pound unintentional weight loss over ___ year. She denies any 
melena, hematochezia, hematemesis, dysphagia or odynophagia. The 
patient reports change in bowel habits with onset of 
constipation 5 days ago coinciding with her current symptoms. 
She reports no bowel movement in 5 days relative to normal 
frequency of 3 to 4 times per week. The patient has been 
counseled previously about trying stool softeners, laxatives 
such as Miralax, possible Tergaserod. She has not tried any of 
these to date, uses fiber products only rarely.
   OMR review reveals that the patient has previously undergone 
testing including at least EGD, Colonoscopy, CT, anti-TTG all of 
which have been normal. 
.
ED Course: 98.6, 123/70, 97, 16, 98% RA. Labs notable for WBC 
11.8, AST 44. A Pelvic ultrasound was performed revealing normal 
uterus and ovaries with trace fluid in the endometrial canal 
concordant 
with phase of menstrual cycle. The patient had GC/Chlamydia 
swabs performed. The patient received Ativan, Phenergen, 
Donnatal, Zofran, and Toradal. She is now admitted to the 
medical service for ongoing care
.
ROS:  
-Constitutional: []WNL [x]Weight loss []Fatigue/Malaise []Fever 
[]Chills/Rigors []Nightweats []Anorexia  
-Eyes: [x]WNL []Blurry Vision []Diplopia []Loss of Vision 
[]Photophobia  
-ENT: [x]WNL []Dry Mouth []Oral ulcers []Bleeding gums/nose 
[]Tinnitus []Sinus pain []Sore throat  
-Cardiac: [x]WNL []Chest pain []Palpitations ___ edema 
[]Orthopnea/PND []DOE  
-Respiratory: [x]WNL []SOB []Pleuritic pain []Hemoptysis []Cough 
 
-Gastrointestinal: []WNL [x]Nausea [x]Vomiting [x]Abdominal pain 
[]Abdominal Swelling []Diarrhea [x]Constipation []Hematemesis 
[]Hematochezia []Melena  
-Heme/Lymph: [x]WNL []Bleeding []Bruising []Lymphadenopathy  
-GU: [x]WNL []Incontinence/Retention []Dysuria []Hematuria 
[]Discharge []Menorrhagia  
-Skin: [x]WNL []Rash []Pruritus  
-Endocrine: [x]WNL []Change in skin/hair []Loss of energy 
[]Heat/Cold intolerance  
-Musculoskeletal: [x]WNL []Myalgias []Arthralgias []Back pain  
-Neurological: [ x]WNL []Numbness of extremities []Weakness of 
extremities []Parasthesias []Dizziness/Lightheaded []Vertigo 
[]Confusion []Headache  
-Psychiatric: [x]WNL []Depression []Suicidal Ideation  
-Allergy/Immunological: [x] WNL []Seasonal Allergies  

 
Past Medical History:
#. Irritable Bowel Syndome
#. Childhood Asthma

 
Social History:
___
Family History:
Mother had cervical cancer. Grandmother had fibromyalgia. She 
has a twin brother and younger brother who are in good health. 
 
Physical Exam:
Physical Examination:  
Vitals: 99.8, 117/70, 67, 22, 99% RA wt: 105 lbs
General: Patient is a young female, very sleepy. Able to wake 
patient to ask questions but she immediately falls asleep 
requiring multiple attempts to wake her.
HEENT: NCAT, EOMI, sclera anicteric, conjunctiva WNL
OP: MMM
Neck: Supple, no JVD
Chest: Generally CTA anterior and posterior
Cor: Regular, no murmurs
Abdomen: thin, soft, minimal tenderness in epigastrium to deep 
palpation, no rebound, no guarding
Ext: No edema
Skin/Nails: No rash
Neuro: Grossly intact
.  

 
Pertinent Results:
___ 08:45PM   WBC-11.9* RBC-4.41 HGB-13.8 HCT-38.3 MCV-87 
MCH-31.3 MCHC-36.1* RDW-12.4
___ 08:45PM   NEUTS-75.1* ___ MONOS-3.3 EOS-0.7 
BASOS-0.2
___ 08:45PM   PLT COUNT-299
___ 08:45PM   GLUCOSE-96 UREA N-16 CREAT-0.8 SODIUM-133 
POTASSIUM-5.4* CHLORIDE-99 TOTAL CO2-22 ANION GAP-17
___ 08:45PM   ALT(SGPT)-15 AST(SGOT)-44* ALK PHOS-45 TOT 
BILI-1.0
___ 08:45PM   LIPASE-29
___ 08:45PM   CALCIUM-9.5 PHOSPHATE-3.3 MAGNESIUM-2.4
___ 08:45PM   ASA-NEG ACETMNPHN-NEG bnzodzpn-NEG 
barbitrt-NEG tricyclic-NEG
___ 10:35PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 10:35PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 10:35PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE->80 BILIRUBIN-SM UROBILNGN-0.2 PH-6.5 
LEUK-NEG
___ 10:35PM URINE  ___ BACTERIA-FEW YEAST-NONE 
___ 07:10AM   MAGNESIUM-2.2
.
DUPLEX DOP ABD/PEL LIMITED/PELVIS, NON-OBSTETRIC/PELVIS U.S., 
TRANSVAGIN:
IMPRESSION: Normal-appearing uterus and ovaries.
.
ABDOMEN (SUPINE & ERECT:
IMPRESSION: No evidence of obstruction. No free air. 
 
Brief Hospital Course:
Assessment/Plan: The patient is a ___ year old female with 
medical history pertinent for IBS presents with epigastric 
abdominal pain.
.  
#. Contipation-predominant Irritable Bowel Syndrome: Patient 
presents with ongoing abdominal pain with symptom complex 
similar to those with prior attacks. She was admitted because 
she had intractable pain and vomiting and could take PO.  Given 
pain exacerbation after having run out of Amitriptyline, likely 
contributing to ongoing symptoms. The patietn was counseled 
about chronicity of disease, importance of having a partnership 
with a single provider, and inappropriateness of self-medicating 
with marijuana. Her amitriptiline was restarted.  She was given 
Toradol simethicone and Tylenol as needed for pain.  She was 
given anti-emetics as needed.  She was also initiated on levsin. 
 Narcotics were avoided as this would only make her constipation 
worse.  She was initally kept NPO and given IVF.  She was 
started on stool softeners and miralax were started. The patient 
was given enemas but patietn was unable to reteain them 
properly. Finally, the patient's bowels moved when she was given 
lactulose q4h.  The patient felt better after moving her bowels 
and her diet was advanced.  She was discharged with scripts for 
amitriptiline, and levsin. The patient was heading back to 
___ and I encouraged her establish close PCP care with 
___ to gastroenterology. She was also instucted to follow a 
high fiber diet and use OTC laxatives if she has not moved her 
bowels within a few days.
.
#. FEN - Advanced to regular
.  
#. Ppx -  Mobile
.  
#. Code -  Full
.  
#. Dispo -  Patient was discharged home in stable condition.
.  
#. Communication -  Patient
Mother: ___ ___

 
___ on Admission:
Amitriptyline 50mg qhs
Digestive Advantage IBS once daily
OCPs
 
Discharge Medications:
1. Hyoscyamine Sulfate 0.125 mg Tablet, Sublingual Sig: One (1) 
Tablet, Sublingual Sublingual Q4H (every 4 hours) as needed for 
GI spasms.
Disp:*100 Tablet, Sublingual(s)* Refills:*0*
2. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H (every 
4 hours) as needed for pain or fever.  
3. Polyethylene Glycol 3350 100 % Powder Sig: One (1)  PO DAILY 
(Daily) as needed for constipation.  
4. Amitriptyline 50 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).
Disp:*30 Tablet(s)* Refills:*0*
5. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.
Disp:*60 Capsule(s)* Refills:*0*
6. YAZ ___ mg-mcg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain
Inability to tolerate PO
Contipation dependent irritable bowel syndrome.

 
Discharge Condition:
Good

 
Discharge Instructions:
You were admitted with an exacerbation of your 
constipation-predominant irritable bowel syndrome.  You were 
given laxatives to help move your bowels. You were started on 
anti-spasm medication and your amitrypline was re-initiated.
.
Recommendations:
-Eat a high fiber diet.
-Use over the counter laxatives to help move your bowels if you 
have not gone in a few days.
-Take Hyoscyamine as needed for bowel spasm
-Continue your amitryptiline.
-Follow up with new PCP and gastroenterologist in ___ as 
planned.  Close follow up is important to maintain control of 
symptoms and prevent hospitlilzations.
 
Followup Instructions:
___